US07566735B2
1-{[4-(1-pyrrolidinylcarbonyl)phenyl]methyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole
A mixture of 1-{[4-(bromomethyl)phenyl]carbonyl}pyrrolidine (84 mg, 0.31 mmol), 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (60 mg, 0.32 mmol), and potassium carbonate (87 mg, 0.63 mmol) in N,N-dimethylformamide (2 ml) was stirred at 140° C. in a microwave reactor for 10 minutes. The reaction mixture was cooled and partitioned between dichloromethane and water. The organic layer was dried over sodium sulphate and reduced to minimum volume under reduced pressure. The crude product was purified using mass directed auto-prep to give the title compound as a pale yellow oil (63 mg, 54%).

reactant | 1-{[4-(bromomethyl)phenyl]carbonyl}pyrrolidine | 0.31 mmol, 84 mg | BrCC1=CC=C(C=C1)C(=O)N1CCCC1 | C12H14BrNO
reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 0.32 mmol, 60 mg | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | potassium carbonate | 0.63 mmol, 87 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 1-{[4-(1-pyrrolidinylcarbonyl)phenyl]methyl}-3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 63 mg, 54% | N1(CCCC1)C(=O)C1=CC=C(C=C1)CN1N=C(C=2CCCCC12)C(F)(F)F | C20H22F3N3O
